US09216964B2
To a solution of 2-methyl-5-nitro-N-phenylnicotinamide (460 mg, 1.79 mmol) in 20 mL of ethanol is added Pd/C (40 mg). The reaction mixture is stirred under H2 atmosphere for 15 hours. The Pd/C is removed by filtering through a celite pad. The filtrate is dried to afford 5-amino-2-methyl-N-phenylnicotinamide as an off-white solid. MS m/z 228.1 (M+1).

reactant | 2-methyl-5-nitro-N-phenylnicotinamide | 1.79 mmol, 460 mg | CC1=C(C(=O)NC2=CC=CC=C2)C=C(C=N1)[N+](=O)[O-] | C13H11N3O3
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 5-amino-2-methyl-N-phenylnicotinamide | NC=1C=NC(=C(C(=O)NC2=CC=CC=C2)C1)C | C13H13N3O
